2120-10-17 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2120-10-16**] 09:20 AM
 PERICARDIOCENTESIS - At [**2120-10-16**] 02:26 PM.  Pericardial drain.
   Swan.
 EKG - At [**2120-10-16**] 09:02 PM
   [**10-16**]:
   -Went into a fib with RVR at rates 120's-160's, BP 100's-110's
   -Given Metoprolol 2.5mg IV x4, Metoprolol 5mg IV x1 (total 15mg) with
   rates 100's-120's.  Asymptomatic.
   -Started Metoprolol 12.5mg po bid, as BP tolerates for rate control
   -Got additional Metoprolol 5mg IV x1 and Metoprolol 12.5mg po extra
   dose this AM
   -Did not start anti-coagulation as not cardioverting, recent
   pericardial drain placement, ICH [**2117**], and long term benefit vs. risk
   less important in acute setting.
   -Lasix 20mg IV as +400cc and LOS +1L, PA diastolic and CVP both
   elevated
   -UCx, BCx, CXR for AM as pt with 38.2 low grade fevers
   -Drain became plugged with clot earlier in the day, resolved with
   milking. Drain clogged again tonight, changing position of drain not
   help, Heparin and forceful flushing unclogged drain successfully.
   -Morphine 0.5mg IV x2 (2am, 6am) for pain with drain
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2120-10-15**] 10:32 PM
   Vancomycin - [**2120-10-17**] 12:02 AM
   Ceftriaxone - [**2120-10-17**] 02:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-10-17**] 01:21 AM
   Morphine Sulfate - [**2120-10-17**] 02:22 AM
   Metoprolol - [**2120-10-17**] 05:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-17**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.2
   HR: 126 (94 - 138) bpm
   BP: 96/73(79) {77/51(60) - 140/74(87)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.4 kg (admission): 66.7 kg
    CVP: 20 (7 - 26)mmHg
   PAP: (44 mmHg) / (32 mmHg)
   Total In:
                                                                  1,341 mL
                                                                    442 mL
   PO:
                                                                    380 mL
   TF:
   IVF:
                                                                    961 mL
                                                                    442 mL
   Blood products:
   Total out:
                                                                    905 mL
                                                                    550 mL
   Urine:
                                                                    810 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
                                                                     95 mL
   Balance:
                                                                    436 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 93%
   ABG: 7.41/46/118/30/4
   PaO2 / FiO2: 124
   Physical Examination
   GEN: NAD, on CPAP
   CV: Tachycardic, regular rhythm, no m/r/g
   PULM: CTAB
   ABD; +BS, soft, NT, ND
   EXTR: 2+DP pulses, no edema
   SKIN: no rashes visible on chest
   NEURO: A&O, conversational but with muffled voice d/t CPAP
   Labs / Radiology
   306 K/uL
   8.5 g/dL
   90 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.7 mEq/L
   11 mg/dL
   101 mEq/L
   134 mEq/L
   26.3 %
   9.8 K/uL
        [image002.jpg]
                            [**2120-10-15**]  05:25 PM
                            [**2120-10-15**]  05:31 PM
                            [**2120-10-15**]  09:00 PM
                            [**2120-10-15**]  10:01 PM
                            [**2120-10-16**]  05:32 AM
                            [**2120-10-16**]  09:10 AM
                            [**2120-10-17**]  12:08 AM
                            [**2120-10-17**]  05:29 AM
   WBC
   15.2
   12.4
   11.7
   9.8
   Hct
   28.1
   29.2
   27.5
   26.3
   Plt
   274
   323
   333
   306
   Cr
   0.7
   0.6
   0.7
   0.7
   0.6
   TropT
   <0.01
   TCO2
   30
   27
   30
   Glucose
   97
   104
   98
   101
   90
   Other labs: PT / PTT / INR:13.8/41.7/1.2, CK / CKMB /
   Troponin-T:57/3/<0.01, ALT / AST:18/46, Alk Phos / T Bili:87/0.3,
   Differential-Neuts:86.2 %, Lymph:9.8 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:0.8 mmol/L, LDH:420 IU/L, Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:2.1
   mg/dL
   Microbiology: PERICARDIAL FLUID
   Other Body Fluid Chemistry:
   TotProt: 5.1
   Glucose: 105
   LD(LDH): 461
   Amylase: 24
   Albumin: 2.7
   PERICARDIAL FLUID
   Other Body Fluid Hematology:
   WBC: 2778
   Hct,Fl: 2.0
   Comments: OTHER BODY FLUID Hct,Fl: Spun Hematocrit Performed
   Polys: 86
   Lymphs: 6
   Monos: 8
   [**10-16**]
   [**2120-10-16**] 3:30 pm FLUID,OTHER      PERICARDIAL FLUID.
      GRAM STAIN (Final [**2120-10-16**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN This is a concentrated smear made by
   cytospin
         method, please refer to hematology for a quantitative white blood
         cell count..
   BCx, Pericardial Fluid Cx pending
   Assessment and Plan
 85 yo F w/ PMHx of CAD, breast CA, anemia, hypertension, hypothyroid
   and chronic hyponatremia admitted with increasing pericardial effusion
   and likely early tamponade physiology
   .
   # RHYTHM: In atrial fibrillation on admission with no history of it.
   Has since converted to NSR spontaneously. Likely due to pericardial
   irritation. Tachycardic.  On [**10-16**] went into a fib with RVR rates
   120-160, asymptomatic; was given Metoprolol for rate control, now with
   rates in 110-120
s with BP as limiting.
   -Monitor on telemetry.
   -Hold on heparin for now given planned procedure this AM and hx of ICH
   -Monitor to see if arrhythmia returns s/p drain
   .
   # Effusions: No clear etiology but the rapid worsening and elevated WBC
   may suggest an infectious etiology. Viral etiologies effusions are most
   likely to be HIV (less likely in 85 yo), with Cocksackie viruses, and
   CMV/EBV possible as well. Bacterial etiology is possible as well given
   rapid development but less likely without fever.  Malignant etiologies
   are less likely given rapid developement and distant malignancy history
   but still possible. No trauma to suggest hemorrhagic effusion. Less
   likely to be autoimmune manifesting now at age 85.
   -Monitor in CCU on telemetry
   -Plan for pericardiocentesis in cath lab this AM; right heart cath this
   AM
   -Will send fluid for cell counts, bacterial/viral/fungal culture, AFB
   smear, gram stain, and cytology
   -Vanc/CTX for possible bacterial etiology until cultures return
   -Maintain current volume status, avoid diuresis for now
   -Hold amlodipine and atenolol out of concern for possible hypotension
   -For sharp chest pain, believed to be related to effusion, consider
   indomethacin s/p pericardiocentesis (not earlier and [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] to
   enhance bleeding possibility)
   -Echo this morning (TTE)
   -F/u final read on yesterday
s echo with cardiology attending
   .
   # PUMP: No signs of systolic failure at this time. Dyspnea likely
   related to pleural and pericardial effusions.
   -Maintain euvolemia for now
   .
   # Hypoxia: No signs of pneumonia or PE on CTA. Most likely due to a
   combination of pleural and pericardial effusion. Significant left lung
   collapse/atelectasis on imaging and exam. Influenza negative. Currently
   on CPAP.
   -O2 as needed for sat>93%, continue CPAP for support given lung
   collapse and acidemia on ABG; post-pericardiocentesis, try to wean as
   tolerated
   -Drain pericardial effusion as planned above
   -Consider thoracentesis in AM as well
   -Follow up urine legionella antigen ordered
   .
   # Leukocytosis: [**Month (only) 8**] be reactive from respiratory distress or from
   unknown infectious process causing effusions. Also having diarrhea but
   chronic non-bloody.
   -Trend WBC
   -Blood/urine cultures
   -F/u C.diff
   .
   # Hyperkalemia: Initial blood samples appear to be hemolyzed but most
   recent sample is now with K of 7.4 but hemolyzed still. Unclear cause
   given lack of renal failure. She is mildly acidemic on her ABGs which
   may be contributing. No EKG changes noted.
   -Recheck potassium
   .
   # Decreased urine output:
   - Monitor I
s & O
   - Consider bladder scan
   .
   # CAD: No signs of ischemia on EKG or CEZ.
   -Con't ASA, Statin
   .
   # Hyponatremia: Known chronic hyponatremia. ?chronic SIADH. [**Month (only) 8**] have
   dCHF contributing to her current worsening of hyponatremia.
   - continue home salt tablets
   - repeat lytes
   .
   # UTI: Klebsiella UTI. Was discharged on Bactrim.
   - cont CTX as above
   - repeat UA
   .
   #  HTN:
   - continue to monitor
   - could consider restarting home atenolol/amlodipine after pericardial
   drain
   .
   # Hypothyroidism:
   - home levothyroxine
   .
   FEN:  NPO for now
   .
   ACCESS: PIV's; Lines:
   20 Gauge - [**2120-10-15**] 05:02 PM
   PA line
   .
   PROPHYLAXIS:
   -DVT ppx with HSC
   -Pain management with tylenol
   -Bowel regimen held given diarrhea
   .
   CODE: Full Code
   .
   COMM: [**Name (NI) 50**], [**Name (NI) 9522**] [**Telephone/Fax (1) 9523**], work [**Telephone/Fax (1) 9525**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-10-15**] 05:02 PM
   PA Catheter - [**2120-10-16**] 03:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-10-17 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2120-10-16**] 09:20 AM
 PERICARDIOCENTESIS - At [**2120-10-16**] 02:26 PM
 PA CATHETER - START [**2120-10-16**] 03:27 PM
 EKG - At [**2120-10-16**] 09:02 PM
   -Went into a fib with RVR at rates 120's-160's, BP 100's-110's
   -Given Metoprolol 2.5mg IV x4, Metoprolol 5mg IV x1 (total 15mg) with
   rates 100's-120's.  Asymptomatic.
   -Started Metoprolol 12.5mg po bid, as BP tolerates for rate control
   -Got additional Metoprolol 5mg IV x1 and Metoprolol 12.5mg po extra
   dose this AM
   -Did not start anti-coagulation as not cardioverting, recent
   pericardial drain placement, ICH [**2117**], and long term benefit vs. risk
   less important in acute setting.
   -Lasix 20mg IV as +400cc and LOS +1L, PA diastolic and CVP both
   elevated
   -UCx, BCx, CXR for AM as pt with 38.2 low grade fevers
   -Drain became plugged with clot earlier in the day, resolved with
   milking. Drain clogged again tonight, changing position of drain not
   help, Heparin and forceful flushing unclogged drain successfully.
   -Morphine 0.5mg IV x2 (2am, 6am) for pain with drain
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2120-10-15**] 10:32 PM
   Vancomycin - [**2120-10-17**] 12:02 AM
   Ceftriaxone - [**2120-10-17**] 02:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-10-17**] 01:21 AM
   Morphine Sulfate - [**2120-10-17**] 02:22 AM
   Metoprolol - [**2120-10-17**] 05:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-17**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.2
   HR: 126 (97 - 138) bpm
   BP: 96/73(79) {77/51(60) - 140/74(87)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.4 kg (admission): 66.7 kg
    CVP: 20 (7 - 26)mmHg
   PAP: (44 mmHg) / (32 mmHg)
   Total In:
                                                                  1,341 mL
                                                                    462 mL
   PO:
                                                                    380 mL
   TF:
   IVF:
                                                                    961 mL
                                                                    462 mL
   Blood products:
   Total out:
                                                                    905 mL
                                                                    550 mL
   Urine:
                                                                    810 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
                                                                     95 mL
   Balance:
                                                                    436 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 93%
   ABG: 7.41/46/118/30/4
   PaO2 / FiO2: 124
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   306 K/uL
   8.5 g/dL
   90 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.7 mEq/L
   11 mg/dL
   101 mEq/L
   134 mEq/L
   26.3 %
   9.8 K/uL
        [image002.jpg]
                            [**2120-10-15**]  05:25 PM
                            [**2120-10-15**]  05:31 PM
                            [**2120-10-15**]  09:00 PM
                            [**2120-10-15**]  10:01 PM
                            [**2120-10-16**]  05:32 AM
                            [**2120-10-16**]  09:10 AM
                            [**2120-10-17**]  12:08 AM
                            [**2120-10-17**]  05:29 AM
   WBC
   15.2
   12.4
   11.7
   9.8
   Hct
   28.1
   29.2
   27.5
   26.3
   Plt
   274
   323
   333
   306
   Cr
   0.7
   0.6
   0.7
   0.7
   0.6
   TropT
   <0.01
   TCO2
   30
   27
   30
   Glucose
   97
   104
   98
   101
   90
   Other labs: PT / PTT / INR:13.8/41.7/1.2, CK / CKMB /
   Troponin-T:57/3/<0.01, ALT / AST:18/46, Alk Phos / T Bili:87/0.3,
   Differential-Neuts:86.2 %, Lymph:9.8 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:0.8 mmol/L, LDH:420 IU/L, Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 85 yo F w/ PMHx of CAD, breast CA, anemia, hypertension, hypothyroid
   and chronic hyponatremia admitted with increasing pericardial effusion
   and likely early tamponade physiology
   .
   # RHYTHM: In atrial fibrillation on admission with no history of it.
   Has since converted to NSR spontaneously. Likely due to pericardial
   irritation. Tachycardic.  On [**10-16**] went into a fib with RVR rates
   120-160, asymptomatic; was given Metoprolol for rate control, now with
   rates in 110-120
s with BP as limiting.
   -Monitor on telemetry.
   -Hold on heparin for now given planned procedure this AM and hx of ICH
   -Monitor to see if arrhythmia returns s/p drain
   .
   # Effusions: No clear etiology but the rapid worsening and elevated WBC
   may suggest an infectious etiology. Viral etiologies effusions are most
   likely to be HIV (less likely in 85 yo), with Cocksackie viruses, and
   CMV/EBV possible as well. Bacterial etiology is possible as well given
   rapid development but less likely without fever.  Malignant etiologies
   are less likely given rapid developement and distant malignancy history
   but still possible. No trauma to suggest hemorrhagic effusion. Less
   likely to be autoimmune manifesting now at age 85.
   -Monitor in CCU on telemetry
   -Plan for pericardiocentesis in cath lab this AM; right heart cath this
   AM
   -Will send fluid for cell counts, bacterial/viral/fungal culture, AFB
   smear, gram stain, and cytology
   -Vanc/CTX for possible bacterial etiology until cultures return
   -Maintain current volume status, avoid diuresis for now
   -Hold amlodipine and atenolol out of concern for possible hypotension
   -For sharp chest pain, believed to be related to effusion, consider
   indomethacin s/p pericardiocentesis (not earlier and [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] to
   enhance bleeding possibility)
   -Echo this morning (TTE)
   -F/u final read on yesterday
s echo with cardiology attending
   .
   # PUMP: No signs of systolic failure at this time. Dyspnea likely
   related to pleural and pericardial effusions.
   -Maintain euvolemia for now
   .
   # Hypoxia: No signs of pneumonia or PE on CTA. Most likely due to a
   combination of pleural and pericardial effusion. Significant left lung
   collapse/atelectasis on imaging and exam. Influenza negative. Currently
   on CPAP.
   -O2 as needed for sat>93%, continue CPAP for support given lung
   collapse and acidemia on ABG; post-pericardiocentesis, try to wean as
   tolerated
   -Drain pericardial effusion as planned above
   -Consider thoracentesis in AM as well
   -Follow up urine legionella antigen ordered
   .
   # Leukocytosis: [**Month (only) 8**] be reactive from respiratory distress or from
   unknown infectious process causing effusions. Also having diarrhea but
   chronic non-bloody.
   -Trend WBC
   -Blood/urine cultures
   -F/u C.diff
   .
   # Hyperkalemia: Initial blood samples appear to be hemolyzed but most
   recent sample is now with K of 7.4 but hemolyzed still. Unclear cause
   given lack of renal failure. She is mildly acidemic on her ABGs which
   may be contributing. No EKG changes noted.
   -Recheck potassium
   .
   # Decreased urine output:
   - Monitor I
s & O
   - Consider bladder scan
   .
   # CAD: No signs of ischemia on EKG or CEZ.
   -Con't ASA, Statin
   .
   # Hyponatremia: Known chronic hyponatremia. ?chronic SIADH. [**Month (only) 8**] have
   dCHF contributing to her current worsening of hyponatremia.
   - continue home salt tablets
   - repeat lytes
   .
   # UTI: Klebsiella UTI. Was discharged on Bactrim.
   - cont CTX as above
   - repeat UA
   .
   #  HTN:
   - continue to monitor
   - could consider restarting home atenolol/amlodipine after pericardial
   drain
   .
   # Hypothyroidism:
   - home levothyroxine
   .
   FEN:  NPO for now
   .
   ACCESS: PIV's; Lines:
   20 Gauge - [**2120-10-15**] 05:02 PM
   PA line
   .
   PROPHYLAXIS:
   -DVT ppx with HSC
   -Pain management with tylenol
   -Bowel regimen held given diarrhea
   .
   CODE: Full Code
   .
   COMM: [**Name (NI) 50**], [**Name (NI) 9522**] [**Telephone/Fax (1) 9523**], work [**Telephone/Fax (1) 9525**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-10-15**] 05:02 PM
   PA Catheter - [**2120-10-16**] 03:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-10-18 08:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2120-10-17**] 08:45 AM
 PERICARDIAL DRAIN REMOVED - At [**2120-10-17**] 12:30 PM
 PA CATHETER - STOP [**2120-10-17**] 01:00 PM
 ULTRASOUND - At [**2120-10-17**] 01:30 PM
   IP eval of L pleural effusion
 THORACENTESIS - At [**2120-10-17**] 04:30 PM (slight improvement in SpO2
   s/p drainage)
   Echo [**10-17**]:
   The left atrium is elongated. Overall left ventricular systolic
   function is normal (LVEF>55%). Right ventricular chamber size and free
   wall motion are normal. The ascending aorta is moderately dilated. The
   aortic valve leaflets are mildly thickened (?#). There is no aortic
   valve stenosis. No aortic regurgitation is seen. The mitral valve
   leaflets are mildly thickened. Mild (1+) mitral regurgitation is seen.
   There is a trivial pericardial effusion.
   Compared with the prior study (images reviewed) of [**2120-10-16**], patient
   is now in atrial fibrillation with rapid ventricular response. There is
   no change in pericardial effusion.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2120-10-15**] 10:32 PM
   Vancomycin - [**2120-10-17**] 11:30 PM
   Ceftriaxone - [**2120-10-18**] 02:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Metoprolol - [**2120-10-17**] 09:10 AM
   Amiodarone - [**2120-10-17**] 10:05 PM
   Furosemide (Lasix) - [**2120-10-17**] 11:04 PM
   Heparin Sodium (Prophylaxis) - [**2120-10-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-18**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.2
C (97.2
   HR: 86 (73 - 135) bpm
   BP: 109/66(77) {85/47(58) - 109/78(82)} mmHg
   RR: 21 (15 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.4 kg (admission): 66.7 kg
    CVP: 10 (10 - 10)mmHg
   PAP: (36 mmHg) / (24 mmHg)
   Total In:
                                                                  1,183 mL
                                                                    439 mL
   PO:
                                                                    270 mL
   TF:
   IVF:
                                                                    913 mL
                                                                    439 mL
   Blood products:
   Total out:
                                                                    838 mL
                                                                    395 mL
   Urine:
                                                                    838 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    345 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 97%
   Physical Examination
   GEN: NAD, resting in bed, non-rebreather in place
   CV: Irregularly irregular, tachycardic, no m/r/g
   PULM: Crackles throughout left lung particularly at the base, right
   lung more clear to auscultation but still with mild crackles.
   ABD: soft, nt, nd
   EXTR: left foot cool than right; no pedal edema, no ttp.
   NEURO: speaking in full sentences, complaining of sob and cough
   Labs / Radiology
   356 K/uL
   8.9 g/dL
   90 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.7 mEq/L
   17 mg/dL
   100 mEq/L
   136 mEq/L
   28.3 %
   8.9 K/uL
        [image002.jpg]
                            [**2120-10-15**]  05:25 PM
                            [**2120-10-15**]  05:31 PM
                            [**2120-10-15**]  09:00 PM
                            [**2120-10-15**]  10:01 PM
                            [**2120-10-16**]  05:32 AM
                            [**2120-10-16**]  09:10 AM
                            [**2120-10-17**]  12:08 AM
                            [**2120-10-17**]  05:29 AM
                            [**2120-10-18**]  05:51 AM
   WBC
   15.2
   12.4
   11.7
   9.8
   8.9
   Hct
   28.1
   29.2
   27.5
   26.3
   28.3
   Plt
   274
   323
   333
   306
   356
   Cr
   0.7
   0.6
   0.7
   0.7
   0.6
   1.0
   TropT
   <0.01
   TCO2
   30
   27
   30
   Glucose
   97
   104
   98
   101
   90
   90
   Other labs: PT / PTT / INR:13.8/41.7/1.2, CK / CKMB /
   Troponin-T:57/3/<0.01, ALT / AST:18/46, Alk Phos / T Bili:87/0.3,
   Differential-Neuts:86.2 %, Lymph:9.8 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:0.8 mmol/L, LDH:420 IU/L, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:2.3
   mg/dL
   Micro: Negative flu, negative legionella.
   Pleural fluid:
   WBC 660
   RBC 470
   Polys 11
   Lymphs 5
   Tot Prot 3.5 (tot.prot. 5.3 in blood)
 appears exudative
   Gluc 97
   LDH 88
   Pericardial fluid: *Negative for malignant cells.
   WBC 2778
   Hct 2.0
   Polys 86
   Lymphs 6
   TotProt 5.1
   Gluc 105
   LDH 461
   Amylase 24
   Albumin 2.7
   Assessment and Plan
 85 yo F w/ PMHx of CAD, breast CA, anemia, hypertension, hypothyroid
   and chronic hyponatremia admitted with increasing pericardial effusion
   and likely early tamponade physiology, now s/p pericardiocentesis and
   thoracentesis.
   .
   # RHYTHM: In atrial fibrillation on admission with no history of it.
   Has since converted to NSR spontaneously, however back in afib this AM,
   likely due to pericardial irritation from effusion and drain.
   Tachycardic.  Was given multiple doses of metoprolol with some
   improvement in rate, however up-titration was limited by blood
   pressure.
   -Monitor on telemetry.
   -Holding on anticoagulation until procedures are finished
   (thoracentesis today)
   -uptitrate beta blocker as tolerated
   -continue Amiodarone, 400mg po bid, now that Amiodarone loaded via IV
   -consider adding diltiazem if need additional control of afib, not now
   .
   # Effusions (Pericardial and pleural): No clear etiology but the
   exudative nature of the effusion and elevated WBC may suggest an
   infectious etiology. Viral etiologies effusions are most likely to be
   HIV (less likely in 85 yo), with Cocksackie viruses, and CMV/EBV
   possible as well. Bacterial etiology is possible as well given rapid
   development but less likely without fever.  Malignant etiologies are
   less likely given rapid developement and distant malignancy history but
   still possible. No trauma to suggest hemorrhagic effusion. Less likely
   to be autoimmune manifesting now at age 85.  Now s/p
   pericardiocentesis, drain removed yesterday. Now s/p thoracentesis and
   pleural fluid drainage.
   -Repeat pleural fluid drainage today via thoracentesis (post-procedure
   can consider start heparin for anticoagulation in setting of afib)
   -Monitor in CCU on telemetry
   -f/u pericardial fluid and pleural fluid results
   -Vanc/CTX for possible bacterial etiology until cultures return
   -Maintain current volume status, avoid diuresis for now
   -Pain management with indomethacin, morphine
   -f/u AM CXR
   -diurese, 40IV lasix now, goal -500cc today
   .
   # PUMP: No signs of systolic failure at this time. Dyspnea likely
   related to pleural and pericardial effusions.
   -Diurese, goal -500cc today
   -40mg IV lasix this morning now
   -Monitor I
s & O
   .
   # Hypoxia: No signs of pneumonia or PE on CTA. Most likely due to a
   combination of pleural and pericardial effusion. Significant left lung
   collapse/atelectasis on imaging and exam. Influenza negative. Currently
   on non-rebreather. s/p thoracentesis on [**10-17**].
   -repeat thoracentesis and pleural fluid drainage today
   -O2 as needed for sat>93%, wean as tolerated
   -f/u results from thoracentesis
   -f/u AM CXR
   .
   # Leukocytosis: Continues to improve.  Most likely due to infectious
   pericardial effusion.
   -trend WBC
   -continue abx
   -follow cxs
   .
   # Hyperkalemia: Initial blood samples appear to be hemolyzed, improved
   on repeat blood draws.  Will follow.
   .
   # Decreased urine output: improved, will continue to monitor.
   -Monitor I
s & O
   -Diuresis today with 40IV lasix now
   .
   # Pain at foley site:
   -Continue lidocaine prn
   .
   # CAD: No signs of ischemia on EKG or CEZ.
   -Continue ASA, Statin
   .
   # Hyponatremia: Known chronic hyponatremia. ?chronic SIADH. [**Month (only) 8**] have
   dCHF contributing to her current worsening of hyponatremia. Resolved.
   - continue home salt tablets
   - follow
   .
   # UTI: Klebsiella UTI. Was discharged on Bactrim.
   - cont CTX as above
   - repeat UA
   .
   #  HTN:
   - continue to monitor
   - could consider restarting home atenolol/amlodipine after pericardial
   drain
   .
   # Hypothyroidism:
   - home levothyroxine
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-10-15**] 05:02 PM
   Cordis/Introducer - [**2120-10-16**] 02:36 PM
   Prophylaxis:
   DVT:  heparin sc
   Stress ulcer:
   VAP:  not intubated
   Comments:
   Communication:  Comments: with pt and Husband, [**Name (NI) 9522**] [**Telephone/Fax (1) 9523**],
   [**Name2 (NI) **] [**Telephone/Fax (1) 9525**]
   Code status: Full code
   Disposition: CCU now, perhaps to floor later today s/p procedures

2120-10-19 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-18**]:
   -thoracentesis attempted by IR, but not large enough window, so did not
   occur (risk >benefit)
   -Plan for CT chest to see if trapped lung or pneumonia
   -Plan for pulmonary to see in am.
   -lasix 20mg IV at 8pm, as was neutral I's & O's at that point.
   -started on Lovenox for AC
   -d/c'd indomethacin given Cr bump
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-19**] 12:30 AM
   Ceftriaxone - [**2120-10-19**] 02:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-10-18**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-19**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 34.1
C (93.4
   HR: 85 (78 - 97) bpm
   BP: 86/50(58) {77/42(51) - 116/68(79)} mmHg
   RR: 23 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.4 kg (admission): 66.7 kg
   Height: 60 Inch
             Total In:
                                                                  1,458 mL
                                                                    443 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    858 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  1,559 mL
                                                                    340 mL
   Urine:
                                                                  1,559 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -101 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   GEN: NAD, resting in bed, non-rebreather in place
   CV: Irregularly irregular, tachycardic, no m/r/g
   PULM: Crackles throughout left lung particularly at the base, right
   lung more clear to auscultation but still with mild crackles.
   ABD: soft, nt, nd
   EXTR: left foot cool than right; no pedal edema, no ttp.
   NEURO: speaking in full sentences
   Labs / Radiology
   341 K/uL
   8.4 g/dL
   94 mg/dL
   1.2 mg/dL
   34 mEq/L
   3.9 mEq/L
   14 mg/dL
   96 mEq/L
   134 mEq/L
   26.0 %
   10.1 K/uL
        [image002.jpg]
                            [**2120-10-15**]  05:25 PM
                            [**2120-10-15**]  05:31 PM
                            [**2120-10-15**]  09:00 PM
                            [**2120-10-15**]  10:01 PM
                            [**2120-10-16**]  05:32 AM
                            [**2120-10-16**]  09:10 AM
                            [**2120-10-17**]  12:08 AM
                            [**2120-10-17**]  05:29 AM
                            [**2120-10-18**]  05:51 AM
                            [**2120-10-19**]  05:18 AM
   WBC
   15.2
   12.4
   11.7
   9.8
   8.9
   10.1
   Hct
   28.1
   29.2
   27.5
   26.3
   28.3
   26.0
   Plt
   274
   323
   333
   [**Telephone/Fax (3) 9575**]
   Cr
   0.7
   0.6
   0.7
   0.7
   0.6
   1.0
   1.2
   TropT
   <0.01
   TCO2
   30
   27
   30
   Glucose
   97
   104
   98
   101
   90
   90
   94
   Other labs: PT / PTT / INR:13.1/53.4/1.1, CK / CKMB /
   Troponin-T:57/3/<0.01, ALT / AST:18/46, Alk Phos / T Bili:87/0.3,
   Differential-Neuts:86.2 %, Lymph:9.8 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:153 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR [**10-18**]
   Stable small right pleural effusion, improving aeration of the left
   upper lobe
   with significant residual left upper and lower lobe collapse, and
   cardiomegaly
   due to a large pericardial effusion.
   Chest US [**10-18**]
   Read pending
   Assessment and Plan
 85 yo F w/ PMHx of CAD, breast CA, anemia, hypertension, hypothyroid
   and chronic hyponatremia admitted with increasing pericardial effusion
   and likely early tamponade physiology, now s/p pericardiocentesis and
   thoracentesis.
   .
   # RHYTHM: In atrial fibrillation on admission with no history of it.
   Has since converted to NSR spontaneously, however back in afib this AM,
   likely due to pericardial irritation from effusion and drain.
   Tachycardic.  Was given multiple doses of metoprolol with some
   improvement in rate, however up-titration was limited by blood
   pressure.
   -Monitor on telemetry.
   -Holding on anticoagulation until procedures are finished
   (thoracentesis today)
   -uptitrate beta blocker as tolerated
   -continue Amiodarone, 400mg po bid, now that Amiodarone loaded via IV
   -consider adding diltiazem if need additional control of afib, not now
   .
   # Effusions (Pericardial and pleural): No clear etiology but the
   exudative nature of the effusion and elevated WBC may suggest an
   infectious etiology. Viral etiologies effusions are most likely to be
   HIV (less likely in 85 yo), with Cocksackie viruses, and CMV/EBV
   possible as well. Bacterial etiology is possible as well given rapid
   development but less likely without fever.  Malignant etiologies are
   less likely given rapid developement and distant malignancy history but
   still possible. No trauma to suggest hemorrhagic effusion. Less likely
   to be autoimmune manifesting now at age 85.  Now s/p
   pericardiocentesis, drain removed yesterday. Now s/p thoracentesis and
   pleural fluid drainage.
   -Repeat pleural fluid drainage today via thoracentesis (post-procedure
   can consider start heparin for anticoagulation in setting of afib)
   -Monitor in CCU on telemetry
   -f/u pericardial fluid and pleural fluid results
   -Vanc/CTX for possible bacterial etiology until cultures return
   -Maintain current volume status, avoid diuresis for now
   -Pain management with indomethacin, morphine
   -f/u AM CXR
   -diurese, 40IV lasix now, goal -500cc today
   .
   # PUMP: No signs of systolic failure at this time. Dyspnea likely
   related to pleural and pericardial effusions.
   -Diurese, goal -500cc today
   -40mg IV lasix this morning now
   -Monitor I
s & O
   .
   # Hypoxia: No signs of pneumonia or PE on CTA. Most likely due to a
   combination of pleural and pericardial effusion. Significant left lung
   collapse/atelectasis on imaging and exam. Influenza negative. Currently
   on non-rebreather. s/p thoracentesis on [**10-17**].
   -repeat thoracentesis and pleural fluid drainage today
   -O2 as needed for sat>93%, wean as tolerated
   -f/u results from thoracentesis
   -f/u AM CXR
   .
   # Leukocytosis: Continues to improve.  Most likely due to infectious
   pericardial effusion.
   -trend WBC
   -continue abx
   -follow cxs
   .
   # Hyperkalemia: Initial blood samples appear to be hemolyzed, improved
   on repeat blood draws.  Will follow.
   .
   # Decreased urine output: improved, will continue to monitor.
   -Monitor I
s & O
   -Diuresis today with 40IV lasix now
   .
   # Pain at foley site:
   -Continue lidocaine prn
   .
   # CAD: No signs of ischemia on EKG or CEZ.
   -Continue ASA, Statin
   .
   # Hyponatremia: Known chronic hyponatremia. ?chronic SIADH. [**Month (only) 8**] have
   dCHF contributing to her current worsening of hyponatremia. Resolved.
   - continue home salt tablets
   - follow
   .
   # UTI: Klebsiella UTI. Was discharged on Bactrim.
   - cont CTX as above
   - repeat UA
   .
   #  HTN:
   - continue to monitor
   - could consider restarting home atenolol/amlodipine after pericardial
   drain
   .
   # Hypothyroidism:
   - home levothyroxine
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-10-15**] 05:02 PM
   Cordis/Introducer - [**2120-10-16**] 02:36 PM
   Prophylaxis:
   DVT:  heparin sc
   Stress ulcer:
   VAP:  not intubated
   Comments:
   Communication:  Comments: with pt and Husband, [**Name (NI) 9522**] [**Telephone/Fax (1) 9523**],
   [**Name2 (NI) **] [**Telephone/Fax (1) 9525**]
   Code status: Full code
   Disposition: CCU now, perhaps to floor later today s/p procedures

2120-10-20 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Pulm consulted; left suggestions for tests to send if we decide to
   re-tap pt, but not necessary to tap if pt not in respiratory distress.
   Recommend finishing 7 day course of abx.
   -Can start Coumadin in AM if attending ok with not tapping
   -Dosing Vanc by trough, held today for high trough (AM and PM)
   -ID approval needed for Vanc
   -CT chest: Prelim Read:  Perisisitent b/l mod pleural effusions w/assoc
   atelectasis - slightly improvbed on L (cannot exclude pna). Cardiomeg
   and decr pleural effusion. Stable multilevel ant thoracic wedge
   fracture.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-19**] 12:30 AM
   Ceftriaxone - [**2120-10-20**] 02:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-20**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 79 (74 - 97) bpm
   BP: 110/59(70) {81/41(51) - 133/91(98)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.4 kg (admission): 66.7 kg
   Height: 60 Inch
             Total In:
                                                                    968 mL
                                                                     50 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    368 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    156 mL
   Urine:
                                                                  1,300 mL
                                                                    156 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -332 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN: Alert, interactive, NAD
   CV: Irregularly irregular, tachycardic, no m/r/g
   PULM: Crackles at bases b/l
   ABD: soft, NT/ND
   EXTR: no pedal edema
   Labs / Radiology
   387 K/uL
   8.2 g/dL
   94 mg/dL
   1.2 mg/dL
   34 mEq/L
   4.5 mEq/L
   14 mg/dL
   96 mEq/L
   134 mEq/L
   26.0 %
   13.2 K/uL
        [image002.jpg]
                            [**2120-10-15**]  05:31 PM
                            [**2120-10-15**]  09:00 PM
                            [**2120-10-15**]  10:01 PM
                            [**2120-10-16**]  05:32 AM
                            [**2120-10-16**]  09:10 AM
                            [**2120-10-17**]  12:08 AM
                            [**2120-10-17**]  05:29 AM
                            [**2120-10-18**]  05:51 AM
                            [**2120-10-19**]  05:18 AM
                            [**2120-10-20**]  06:01 AM
   WBC
   15.2
   12.4
   11.7
   9.8
   8.9
   10.1
   13.2
   Hct
   28.1
   29.2
   27.5
   26.3
   28.3
   26.0
   26.0
   Plt
   274
   323
   333
   [**Telephone/Fax (3) 9575**]
   387
   Cr
   0.6
   0.7
   0.7
   0.6
   1.0
   1.2
   TropT
   <0.01
   TCO2
   30
   27
   30
   Glucose
   104
   98
   101
   90
   90
   94
   Other labs: PT / PTT / INR:13.1/38.4/1.1, CK / CKMB /
   Troponin-T:57/3/<0.01, ALT / AST:18/46, Alk Phos / T Bili:87/0.3,
   Differential-Neuts:86.2 %, Lymph:9.8 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:153 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 85 yo F w/ PMHx of CAD, breast CA, anemia, hypertension, hypothyroid
   and chronic hyponatremia admitted with increasing pericardial effusion
   and likely early tamponade physiology, now s/p pericardiocentesis and
   thoracentesis.
   .
   # RHYTHM: In atrial fibrillation on admission with no history of it.
   Has since converted to NSR spontaneously, however back in afib this AM,
   likely due to pericardial irritation from effusion and drain.
   Tachycardic.  Was given multiple doses of metoprolol with some
   improvement in rate, however up-titration was limited by blood
   pressure.
   -On Lovenox for anti-coagulation
   -Uptitrate beta blocker as tolerated
   -Continue Amiodarone, 400mg po bid, now that Amiodarone loaded via IV
   -Consider adding diltiazem if need additional control of afib in the
   future
   .
   # Effusions (Pericardial and pleural): No clear etiology but elevated
   WBC may suggest an infectious etiology. Viral etiologies effusions are
   most likely to be HIV (less likely in 85 yo), with Cocksackie viruses,
   and CMV/EBV possible as well. Bacterial etiology is possible as well
   given rapid development but less likely without fever.  Malignant
   etiologies are less likely given rapid development but still possible
   given past malignancy history. No trauma to suggest hemorrhagic
   effusion. Less likely to be autoimmune manifesting now at age 85.  Now
   s/p pericardiocentesis, drain removed yesterday. Now s/p thoracentesis
   and pleural fluid drainage.
   -CT chest today to r/o lung trapping
   -Pulm consult re: need for bronch or further procedures to workup
   etiology of effusions
   -f/u pericardial fluid and pleural fluid results
   -Vanc/CTX for possible bacterial etiology until cultures return
   -Pain management with morphine
   .
   # Hypoxia: No signs of pneumonia or PE on CTA. Most likely due to a
   combination of pleural and pericardial effusion. Significant left lung
   collapse/atelectasis on imaging and exam. Influenza negative. Currently
   on non-rebreather. s/p thoracentesis on [**10-17**].
   -O2 as needed for sat>93%, wean as tolerated
   -f/u results from thoracentesis
   .
   # PUMP: No signs of systolic failure at this time. Dyspnea likely
   related to pleural and pericardial effusions.
   -Diurese with Lasix 80mg IV, goal -500cc today
   -Monitor I
s & O
   .
   # Leukocytosis: Continues to improve.  Most likely due to infectious
   pericardial effusion.
   -continue abx as above
   -follow cxs as above
   .
   # CAD: No signs of ischemia on EKG or CEZ.
   -Continue ASA, Statin
   .
   # Pain at foley site:
   -Continue lidocaine prn
   .
   # Hyponatremia: Known chronic hyponatremia. ?chronic SIADH. [**Month (only) 8**] have
   dCHF contributing to her current worsening of hyponatremia. Resolved.
   - continue home salt tablets
   .
   # UTI: Klebsiella UTI. Was discharged on Bactrim.  Repeat UA negative
   on CTX.
   - cont CTX as above
   .
   #  HTN:  Continue to monitor.
   - Continue holding home atenolol/amlodipine given low BPs
   .
   # Hypothyroidism:
   - Continue home levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2120-10-16**] 02:36 PM
   20 Gauge - [**2120-10-19**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-10-21 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pericardial effusion
   24 Hour Events:
   -change amiodarone to 200 Daily after 7 days of 400 [**Hospital1 **]
   -coumadin started for afib, may need to adjust dosing given that pt is
   on amiodarone
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-19**] 12:30 AM
   Ceftriaxone - [**2120-10-21**] 02:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-21**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 75 (71 - 85) bpm
   BP: 108/50(64) {88/41(51) - 130/63(78)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 67.4 kg (admission): 66.7 kg
   Height: 60 Inch
             Total In:
                                                                    230 mL
                                                                    170 mL
   PO:
                                                                    180 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,246 mL
                                                                    201 mL
   Urine:
                                                                  2,246 mL
                                                                    201 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,016 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 94%
   ABG: ///37/
   Physical Examination
   GEN: Alert, interactive, NAD
   CV: RRR, no MRG
   PULM: CTA anteriorly, R>L crackles
   ABD: soft, NT/ND
   EXTR: no pedal edema
   Labs / Radiology
   373 K/uL
   8.2 g/dL
   83 mg/dL
   1.3 mg/dL
   37 mEq/L
   4.3 mEq/L
   12 mg/dL
   94 mEq/L
   134 mEq/L
   25.8 %
   12.8 K/uL
        [image002.jpg]
                            [**2120-10-15**]  09:00 PM
                            [**2120-10-15**]  10:01 PM
                            [**2120-10-16**]  05:32 AM
                            [**2120-10-16**]  09:10 AM
                            [**2120-10-17**]  12:08 AM
                            [**2120-10-17**]  05:29 AM
                            [**2120-10-18**]  05:51 AM
                            [**2120-10-19**]  05:18 AM
                            [**2120-10-20**]  06:01 AM
                            [**2120-10-21**]  05:33 AM
   WBC
   15.2
   12.4
   11.7
   9.8
   8.9
   10.1
   13.2
   12.8
   Hct
   28.1
   29.2
   27.5
   26.3
   28.3
   26.0
   26.0
   25.8
   Plt
   274
   323
   333
   [**Telephone/Fax (3) 9575**]
   387
   373
   Cr
   0.6
   0.7
   0.7
   0.6
   1.0
   1.2
   1.3
   1.3
   TropT
   <0.01
   TCO2
   27
   30
   Glucose
   104
   98
   101
   90
   90
   94
   86
   83
   Other labs: PT / PTT / INR:12.8/35.1/1.1, CK / CKMB /
   Troponin-T:57/3/<0.01, ALT / AST:18/46, Alk Phos / T Bili:87/0.3,
   Differential-Neuts:86.2 %, Lymph:9.8 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:153 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 85 yo F w/ PMHx of CAD, breast CA, anemia, hypertension, hypothyroid
   and chronic hyponatremia admitted with increasing pericardial effusion
   and likely early tamponade physiology, now s/p pericardiocentesis and
   thoracentesis.
   .
   # RHYTHM: In atrial fibrillation on admission with no prior history.
   Has since converted to NSR spontaneously, however back in
   -on warfarin,  follow INR, once therapeutic d/c lovenox
   -Uptitrate beta blocker as tolerated
   -Continue Amiodarone, 400mg po bid, now that Amiodarone loaded via IV,
   will switch to 200/day after 1 week ([**10-24**])
   -Consider adding diltiazem if need additional control of afib in the
   future
   .
   # Effusions (Pericardial and pleural): Appears borderline exudative
   however no evidence growth on cultures at this time, no evidence of
   malignancy on pericardial fluid, pleural fluid cytology pending.
   Concern for cardiac etiology at this time until proven otherwise.  Low
   concern for infection given negative gram stains and cxs, however given
   elevated WBC will tx with 7-day course of abx.  Now s/p
   pericardiocentesis with drain placement and removal. Also s/p
   thoracentesis and pleural fluid drainage.
   -f.u CXR in AM
   -Appreciate pulm consult, will f/u recs
   -f/u pleural fluid cytology
   -Vanc/CTX for 7-day course (last day [**10-23**])
   .
   # Hypoxia: No signs of pneumonia or PE on CTA. Most likely due to a
   combination of pleural and pericardial effusion atelectasis on imaging
   and exam. Influenza negative. Currently on nc 6L.
   -O2 as needed for sat>93%, wean as tolerated
   -f/u results final cytology from pleural fluid
   -PT and IS, give nebs, try to decrease O2 requirement prior to floor.
   .
   # PUMP: HF/tamponade from effusion may have been contributing to
   accumulation of pleural effusions.  Given no further plans for
   [**Last Name (LF) 9589**], [**First Name3 (LF) 124**] diurese today
   -Diurese with Lasix 80mg IV again today, goal -1000cc today
   -Monitor I
s & O
   -trend creatinine, been trending up, likely [**1-29**] diuresis.
   .
   # Leukocytosis: Slightly worse today, unclear etiology but infectious
   etiology remains a possibility although no organism identified to
   date.
   -continue abx as above
   -follow cxr as above
   .
   # CAD: No signs of ischemia on EKG or CEZ.
   -Continue ASA, Statin
   .
   # Pain at foley site:
   -Continue lidocaine prn
   .
   # Hyponatremia: Known chronic hyponatremia. ?chronic SIADH. [**Month (only) 8**] have
   dCHF contributing to her current worsening of hyponatremia.  Currently
   improved and stable
   - continue home salt tablets
   .
   # UTI: Klebsiella UTI. Was discharged on Bactrim.  Repeat UA negative
   on CTX.  No further tx at this time
   .
   #  HTN:  pt has been hypotensive recently.
   - Continue holding home amlodipine given low BPs.  Will consider
   restarting if stable on DC.  Continue metoprolol as pressures tolerate.
   .
   # Hypothyroidism:
   - Continue home levothyroxine
   .
   # Dispo to floor today if O2 requirement decreases and need to RM Right
   IJ line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2120-10-16**] 02:36 PM
   20 Gauge - [**2120-10-19**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-10-22 02:58:00 Physician Resident Progress Note
Chief Complaint:
   85 yo F w/ PMHx of CAD, HTN, remote breast CA, and chronic hyponatremia
   admitted with increasing pericardial effusion and likely early
   tamponade physiology, now s/p pericardiocentesis and thoracentesis.
   24 Hour Events:
   - Cordis in RIJ removed
   - Continued to diurese, responded well to 100mg IV lasix, but now UOP
   slowing off to 20-30 cc/hr
   - Held off on calling out yesterday given still high O2 requirement
   - Pulm recs: continue abx for 8 day course, continue diuresis
   - Lopressor held in setting of SBP 90s
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-21**] 10:00 AM
   Ceftriaxone - [**2120-10-22**] 02:55 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-10-21**] 09:00 PM
   Furosemide (Lasix) - [**2120-10-21**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-22**] 02:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 81 (74 - 83) bpm
   BP: 140/70(86) {98/44(58) - 150/77(115)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 90%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 67.4 kg (admission): 66.7 kg
   Height: 60 Inch
             Total In:
                                                                  1,180 mL
                                                                    110 mL
   PO:
                                                                    930 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    250 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,541 mL
                                                                    895 mL
   Urine:
                                                                  2,541 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,361 mL
                                                                   -785 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///35/
   Physical Examination
   GEN: Alert, interactive, NAD
   CV: RRR, no MRG
   PULM: CTA anteriorly, bibasilar R>L crackles
   ABD: soft, NT/ND
   EXTR: no pedal edema
   Labs / Radiology
   400
   8.4 g/dL
   94 mg/dL
   1.4 mg/dL
   38 mEq/L
   4.1 mEq/L
   14 mg/dL
   92 mEq/L
   137 mEq/L
   25.6 %
   12.6 K/uL
        [image002.jpg]
                            [**2120-10-15**]  10:01 PM
                            [**2120-10-16**]  05:32 AM
                            [**2120-10-16**]  09:10 AM
                            [**2120-10-17**]  12:08 AM
                            [**2120-10-17**]  05:29 AM
                            [**2120-10-18**]  05:51 AM
                            [**2120-10-19**]  05:18 AM
                            [**2120-10-20**]  06:01 AM
                            [**2120-10-21**]  05:33 AM
                            [**2120-10-21**]  04:20 PM
   WBC
   12.4
   11.7
   9.8
   8.9
   10.1
   13.2
   12.8
   Hct
   29.2
   27.5
   26.3
   28.3
   26.0
   26.0
   25.8
   Plt
   [**Telephone/Fax (3) 9607**]56
   341
   387
   373
   Cr
   0.7
   0.7
   0.6
   1.0
   1.2
   1.3
   1.3
   1.4
   TropT
   <0.01
   TCO2
   27
   30
   Glucose
   98
   101
   90
   90
   94
   86
   83
   98
   Other labs: PT / PTT / INR:12.8/35.1/1.1, CK / CKMB /
   Troponin-T:57/3/<0.01, ALT / AST:18/46, Alk Phos / T Bili:87/0.3,
   Differential-Neuts:86.2 %, Lymph:9.8 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:153 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 85 yo F w/ PMHx of CAD, breast CA, anemia, hypertension, hypothyroid
   and chronic hyponatremia admitted with increasing pericardial effusion
   and likely early tamponade physiology, now s/p pericardiocentesis and
   thoracentesis.
   .
   # Effusions (Pericardial and pleural): Appears borderline exudative
   however no evidence growth on cultures at this time, no evidence of
   malignancy on pericardial fluid, pleural fluid cytology pending.
   Concern for cardiac etiology at this time until proven otherwise.  Low
   concern for infection given negative gram stains and cxs, however given
   elevated WBC will tx with 7-day course of abx.  Now s/p
   pericardiocentesis with drain placement and removal. Also s/p
   thoracentesis and pleural fluid drainage.
   -Hold diuresis today and keep even/slightly negative
   -Appreciate pulm recs
   -f/u pleural fluid cytology
   -Vanc/CTX for 7-day course (last day [**10-23**])
   .
   # Hypoxia: No signs of pneumonia or PE on CTA. Most likely due to a
   combination of pleural and pericardial effusion/atelectasis on imaging
   and exam. Influenza negative. Currently on 4L NC
   -O2 as needed for sat>93%, wean as tolerated
   -f/u results final cytology from pleural fluid
   -PT and IS, give nebs, oxygenating well enough for floor.
   # RHYTHM: In atrial fibrillation on admission with no prior history.
   Has since converted to NSR spontaneously.
   -on warfarin, INR 1.6, once therapeutic x 24-48 hours will d/c lovenox
   -Uptitrate beta blocker as tolerated
   -Continue Amiodarone, 400mg po bid, now that Amiodarone loaded via IV,
   will switch to 200/day after 1 week ([**10-24**])
   -of note, given addition of amiodarone, may need less amount of
   coumadin to be therapeutic
   -Consider adding diltiazem if need additional control of afib in the
   future
   .
   # PUMP: HF/tamponade from effusion may have been contributing to
   accumulation of pleural effusions.  Given no further plans for
   thorocentesis
   -Will try to keep I/O even tonight
   -Monitor I
s & O
   -Cr stable overnight, been trending up, likely [**1-29**] diuresis.
   .
   # Leukocytosis: stable; unclear etiology but infectious etiology
   remains a possibility although no organism identified to date.
   -continue abx as above
   -follow cxr as above, ordered for tomorrow
   .
   # CAD: No signs of ischemia on EKG or CEZ.
   -Continue ASA, Statin, BB
   .
   # Metabolic alkalosis: suspect contraction alkalosis.
   -will allow patient to equilibrate today
   -consider diamox if requiring diuresis
   # Pain at foley site:
   -Continue lidocaine prn
   .
   # Hyponatremia: improved with diuresis.  Known chronic hyponatremia.
   ?chronic SIADH. [**Month (only) 8**] have dCHF contributing to her current worsening of
   hyponatremia.  Currently improved and stable.
   - continue home salt tablets
   .
   # UTI: Klebsiella UTI. Was discharged on Bactrim.  Repeat UA negative
   on CTX.  No further tx at this time
   .
   #  HTN:  pt has been hypotensive recently.
   - Continue holding home amlodipine given low BPs.  Will consider
   restarting if stable on DC.  Continue metoprolol as pressures tolerate.
   .
   # Hypothyroidism:
   - Continue home levothyroxine
   .
   # Dispo: may be able to go to floor today as oxygenating well on 4L
   NC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-10-19**] 02:27 PM
   Prophylaxis:
   DVT: ambulate
   Stress ulcer: PPI
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU vs. call out to floor

2120-10-23 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pt somnolent this AM, ABG showed evidence of mild CO2 retention; held
   off on calling out, perked up in the evening and was called out
   - goal I+O was to be even
   - pt is to complete 8th (and final) day of abx this AM
   - CXR ordered for this AM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2120-10-22**] 02:55 AM
   Vancomycin - [**2120-10-22**] 09:38 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-23**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 71 (71 - 97) bpm
   BP: 95/52(81) {88/37(41) - 141/72(89)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2:96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 67.4 kg (admission): 66.7 kg
   Height: 60 Inch
                  Total In:
                                                                  1,290 mL
                  PO:
                                                                  1,040 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    115 mL
   Urine:
                                                                  1,390 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -100 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.42/64/86.[**Numeric Identifier 253**]/37/13
   Physical Examination
   Gen: sitting up in bed getting ready to transfer to chair, feels
   breathing has improved, on 3L NC
   Chest: No oozing from drain site
   CV: RRR s1s2 no MGR
   Pulm: mild bibasilar crackles, good air movement at mid back, no
   wheezes or rhonchi,
   Ext: no edema noted, 2+ DP pulses
   Labs / Radiology
   379 K/uL
   8.2 g/dL
   84 mg/dL
   1.8 mg/dL
   37 mEq/L
   4.8 mEq/L
   17 mg/dL
   90 mEq/L
   132 mEq/L
   24.9 %
   13.9 K/uL
        [image002.jpg]
                            [**2120-10-17**]  12:08 AM
                            [**2120-10-17**]  05:29 AM
                            [**2120-10-18**]  05:51 AM
                            [**2120-10-19**]  05:18 AM
                            [**2120-10-20**]  06:01 AM
                            [**2120-10-21**]  05:33 AM
                            [**2120-10-21**]  04:20 PM
                            [**2120-10-22**]  02:21 AM
                            [**2120-10-22**]  03:56 PM
                            [**2120-10-23**]  02:54 AM
   WBC
   11.7
   9.8
   8.9
   10.1
   13.2
   12.8
   12.6
   13.9
   Hct
   27.5
   26.3
   28.3
   26.0
   26.0
   25.8
   25.6
   24.9
   Plt
   333
   306
   356
   [**Telephone/Fax (3) 9627**]
   400
   379
   Cr
   0.7
   0.6
   1.0
   1.2
   1.3
   1.3
   1.4
   1.4
   1.8
   TCO2
   43
   Glucose
   101
   90
   90
   94
   86
   83
   98
   91
   84
   Other labs: PT / PTT / INR:24.7/34.2/2.4, CK / CKMB /
   Troponin-T:57/3/<0.01, ALT / AST:18/46, Alk Phos / T Bili:87/0.3,
   Differential-Neuts:86.2 %, Lymph:9.8 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:153 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Assessment and Plan
 85 yo F w/ PMHx of CAD, breast CA, anemia, hypertension, hypothyroid
   and chronic hyponatremia admitted with increasing pericardial effusion
   and likely early tamponade physiology, now s/p pericardiocentesis and
   thoracentesis.
   .
   # Effusions (Pericardial and pleural): Appears borderline exudative
   however no evidence growth on cultures at this time, no evidence of
   malignancy on pericardial fluid, pleural fluid cytology pending.
   Concern for cardiac etiology at this time until proven otherwise.  Low
   concern for infection given negative gram stains and cxs, however given
   elevated WBC will tx with 7-day course of abx.  Now s/p
   pericardiocentesis with drain placement and removal. Also s/p
   thoracentesis and pleural fluid drainage.
   -  Continue to hold diuresis and keep even/slightly positive
   -  Appreciate pulm recs
   -  Pleural Fluid Cytology is negative for malignancy
    - Pleural Effusion Anaerobe still preliminary everything NGTD
   -  Vanc/CTX to finish today
   .
   # Hypoxia: No signs of pneumonia or PE on CTA. Most likely due to a
   combination of pleural and pericardial effusion/atelectasis on imaging
   and exam. Influenza negative. Currently on 3L NC
   -O2 as needed for sat>93%, continue to wean as tolerated
   - f/u final cx from pulm effusion
   - PT and IS, give nebs, oxygenating well enough for floor.
   #ARF
 Cre has increased from .7 to 1.8 over 7 days.  Suspect pre-renal
   in the setting of recent aggressive diuresis.
   -hold diuretics, keep at least even
   -keep even and allow to redistribute third-spaced fluid
   # RHYTHM: In atrial fibrillation on admission with no prior history.
   Has since converted to NSR spontaneously.
   -on warfarin, INR 2.4, once therapeutic x 24-48 hours will d/c lovenox
   ([**10-24**] AM)
   -Uptitrate beta blocker as tolerated
   -Continue Amiodarone, 400mg po bid, now that Amiodarone loaded via IV,
   will switch to 200/day after 1 week ([**10-24**])
   -of note, given addition of amiodarone, may need less amount of
   coumadin to be therapeutic
   -Consider adding diltiazem if need additional control of afib in the
   future
   .
   # PUMP: HF/tamponade from effusion may have been contributing to
   accumulation of pleural effusions.  Given no further plans for
   thorocentesis
   -Will try to keep I/O even tonight
   -Monitor I
s & O
   -Cr increased overnight likely [**1-29**] diuresis.
   .
   # Leukocytosis: stable; unclear etiology but infectious etiology
   remains a possibility although no organism identified to date.
   -continue abx as above
   -follow cxr as above, ordered for tomorrow
   .
   # CAD: No signs of ischemia on EKG or CEZ.
   -Continue ASA, Statin, BB
   .
   # Metabolic alkalosis: suspect contraction alkalosis.
   -will allow patient to equilibrate today
   -consider diamox if requiring diuresis
   # Pain at foley site:
   -Continue lidocaine prn
   .
   # Hyponatremia: improved with diuresis.  Known chronic hyponatremia.
   ?chronic SIADH. [**Month (only) 8**] have dCHF contributing to her current worsening of
   hyponatremia.  Currently improved and stable.
   - continue home salt tablets
   .
   # UTI: Klebsiella UTI. Was discharged on Bactrim.  Repeat UA negative
   on CTX.  No further tx at this time
   .
   #  HTN:  pt has been hypotensive recently.
   -          Continue holding home amlodipine given low BPs.  Will
   consider restarting if stable on DC.  Continue metoprolol as pressures
   tolerate.
   -          Await redistribution from 3^rd space
   .
   # Hypothyroidism:
   - Continue home levothyroxine
   .
   # Dispo: pt to [**Hospital Ward Name **] 3 today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-10-19**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: